US04749791
147 g (1.94 mol) of lithium aluminum hydride were suspended in 4 l of tetrahydrofuran under argon, 454 g (1.94 mol) of 8-chloro-1,4,5,6-tetrahydrobenzo[f]quinolin-3(3H)-one were slowly added thereto and the mixture was boiled under reflux for 2.5 hours. The mixture was then cooled, 470 ml of 18 percent sodium hydroxide solution were added thereto, the resulting mixture was stirred at room temperature for 30 minutes, filtered and the filter residue was washed with tetrahydrofuran. Upon evaporation of the filtrate there was obtained 8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline as a yellow oil.

reactant | lithium aluminum hydride | 1.94 mol, 147 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 8-chloro-1,4,5,6-tetrahydrobenzo[f]quinolin-3(3H)-one | 1.94 mol, 454 g | ClC1=CC2=C(C=3CCC(NC3CC2)=O)C=C1 | C13H12ClNO
reactant | sodium hydroxide | 470 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 4 l | O1CCCC1 | C4H8O
product | 8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | ClC1=CC2=C(C=3CCCNC3CC2)C=C1 | C13H14ClN
